US04512994
A mixture of 9.5 g (0.05 mole) of 4-acetylcinnamic acid [obtained according to G. H. Cleland, J. Org. Chem., 34, 744 (1969)], of 30 g of thionyl chloride and 40 cc of benzene was brought to reflux for 20 minutes. The solution was concentrated dry under low pressure. The residual solid was dissolved in 100 cc of dioxane and the resulting solution was added, dropy by drop at a temperature of 20° C., to a solution of 9.3 g (0.15 mole) of ethanolamine in 50 cc of dioxane. The mixture was stirred for 1 hour at room temperature, poured into a mixture of 500 g of ice and 20 cc of 10N hydrochloric acid then extracted with chloroform. The organic phase was washed with water and dried on sodium sulfate. By evaporation of the solvent under low pressure there was obtained N-(2-hydroxyethyl)-4-acetylcinnamamide which was purified by recrystallization in ethylacetate. Melting point=124°-125° C. Yield: 4.2 g (36% of theory).

reactant | 4-acetylcinnamic acid | 0.05 mole, 9.5 g | C(C)(=O)C1=CC=C(C=CC(=O)O)C=C1 | C11H10O3
reactant | thionyl chloride | 30 g | S(=O)(Cl)Cl | Cl2OS
reactant | ethanolamine | 0.15 mole, 9.3 g | C(O)CN | C2H7NO
reactant | hydrochloric acid | 10N, 20 cc | Cl | ClH
solvent | dioxane | 50 cc | O1CCOCC1 | C4H8O2
solvent | benzene | 40 cc | C1=CC=CC=C1 | C6H6
product | N-(2-hydroxyethyl)-4-acetylcinnamamide | OCCNC(C=CC1=CC=C(C=C1)C(C)=O)=O | C13H15NO3
